US07825131B2
4-(3-Fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile
To a solution of 1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile (42 mg, 0.094 mmol) in 0.5 mL of dichloromethane and 1 mL of trifluoroacetic acid was added dimethyl sulfide (0.10 mL). After stirring for 2 days, the reaction was heated to reflux for 10 hours, then concentrated in vacuo. The crude product was triturated with EtOAc to provide the titled product as a pale yellow solid. Proton NMR for the product was consistent with the titled compound. HRMS (ES) exact mass calculated for C17H11FN2O2 (M+H+): 295.0878. Found 295.0879.

reactant | 1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 0.094 mmol, 42 mg | COC1=C(CN2C(C(=C(C3=CC(=CC=C23)OC)C2=CC(=CC=C2)F)C#N)=O)C=CC(=C1)OC | C26H21FN2O4
reactant | dimethyl sulfide | 0.10 mL | CSC | C2H6S
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(3-Fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(C(NC2=CC=C(C=C12)OC)=O)C#N | C17H11FN2O2
